US07067540B2
N-{4-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]benzyl}acetamide
1-[4-(aminomethyl)phenyl]-4-(benzyloxy)-3-bromopyridin-2(1H)-one hydrochloride (0.150 g, 0.389 mmol) was dissolved in N,N-dimethylformamide (3.5 mL). A stock solution of 4-methylmorpholine in N,N-dimethylformamide (1.5 mL, 1.0 M) was added and the reaction stirred at room temperature for 10 minutes. A stock solution of acetyl chloride in N,N-dimethylformamide (3.0 mL, 0.2 M) was then added to the reaction vessel and the reaction apparatus was orbitally shaken at 200 RPM for 2 hours at room temperature. At this time the reaction was diluted with dichloromethane (4 mL) and treated with approximately 1.8 g of polyamine resin (2.63 mmol/g) and approximately 0.8 g of methylisocyanate functionalized polystyrene (1.7 mmol/g) and the orbital shaking was continued at 200 RPM at room temperature overnight. The reaction vessel was then opened and the solution phase products were separated from the insoluble quenched byproducts by filtration and collection into a vial. After partial evaporation the insoluble byproducts were further rinsed with dichloromethane (3×5 mL) and combined with the partially concentrated filtrate. The resulting filtrate was concentrated by blowing N2 over the vial while heating (60° C.) in a reaction block (KEM-Lab Parallel Reactor) to give an off-white solid (0.083 g, 50%). 1H NMR (400 MHz, CD3OD) δ 7.59 (d, J=7.79 Hz, 1H), 7.48-7.29 (m, 9H), 6.55 (d, J=7.79 Hz, 1H), 5.35 (s, 2H), 4.39 (s, 2H), 1.98 (s, 3H) ES-HRMS m/z 427.0625 (M+H C21H19BrN2O3 requires 427.0652).

reactant | 1-[4-(aminomethyl)phenyl]-4-(benzyloxy)-3-bromopyridin-2(1H)-one hydrochloride | 0.389 mmol, 0.150 g | Cl.NCC1=CC=C(C=C1)N1C(C(=C(C=C1)OCC1=CC=CC=C1)Br)=O
reactant | 4-methylmorpholine | CN1CCOCC1 | C5H11NO
reactant | acetyl chloride | C(C)(=O)Cl | C2H3ClO
reactant | methylisocyanate | approximately 0.8 g | CN=C=O | C2H3NO
solvent | N,N-dimethylformamide | 3.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 1.0 M, 1.5 mL | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 0.2 M, 3.0 mL | CN(C=O)C | C3H7NO
solvent | dichloromethane | 4 mL | ClCCl | CH2Cl2
product | N-{4-[4-(benzyloxy)-3-bromo-2-oxopyridin-1(2H)-yl]benzyl}acetamide | 0.083 g, 50% | C(C1=CC=CC=C1)OC1=C(C(N(C=C1)C1=CC=C(CNC(C)=O)C=C1)=O)Br | C21H19BrN2O3
